US08530517B2
(E)-3-[3′-Adamantan-1-yl-4′-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethoxy)-biphenyl-4yl]-acrylic acid ST5632AA1
TFA (1.8 ml) was dropped into an ice-cooled solution of (E)-3-[3′-adamantan-1-yl-4′-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethoxy)-biphenyl-4-yl]acrylic acid tert-butyl ester (110 mg, 0.186 mmol) in DCM (1.8 ml), and the mixture was stirred at 0° C. for 10 min. The solvent was removed in vacuo and the residue was rinsed with hexane to obtain, after filtration, 97 mg (98%) of the title compound.

reactant | TFA | 1.8 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (E)-3-[3′-adamantan-1-yl-4′-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethoxy)-biphenyl-4-yl]acrylic acid tert-butyl ester | 0.186 mmol, 110 mg | C(C)(C)(C)OC(\C=C\C1=CC=C(C=C1)C1=CC(=C(C=C1)OCN1C(C2=CC=CC=C2C1=O)=O)C12CC3CC(CC(C1)C3)C2)=O | C38H39NO5
solvent | DCM | 1.8 ml | C(Cl)Cl | CH2Cl2
product | (E)-3-[3′-Adamantan-1-yl-4′-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethoxy)-biphenyl-4yl]-acrylic acid | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OCN2C(C3=CC=CC=C3C2=O)=O)C2=CC=C(C=C2)/C=C/C(=O)O | C34H31NO5
